US04185115
Preparation of 11-Phenyl-1-undecanol
To 200 ml. of 1M borane in tetrahydrofuran, cooled in an ice bath under nitrogen, is added dropwise over 35 minutes, a solution of 52.5 g. of phenylundecanoic acid in 150 ml. of tetrahydrofuran. The solution is allowed to stand at room temperature for 5.5 hours and poured onto ice. To the mixture is added 8 ml. of concentrated hydrochloric acid and the mixture is diluted with water to 2.2 liters. The mixture is extracted with ether (ca 500 ml.) and the extracts dried over magnesium sulfate. Concentration in vacuo gives a colorless oil.

reactant | borane | 1M | B | BH3
reactant | phenylundecanoic acid | C1(=CC=CC=C1)C(C(=O)O)CCCCCCCCC | C17H26O2
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 11-Phenyl-1-undecanol | C1(=CC=CC=C1)CCCCCCCCCCCO | C17H28O
